US04447361
[2-[(3-Amino-2-pyridinyl)amino]phenyl](2-pyridinyl)methanone
The title compound is prepared by reacting (2-aminophenyl)(2-pyridinyl)methanone, as prepared by Schofield, K., J. Chem. Soc. 1949, 2408-12, with 3-amino-2-chloropyridine.

reactant | (2-aminophenyl)(2-pyridinyl)methanone | NC1=C(C=CC=C1)C(=O)C1=NC=CC=C1 | C12H10N2O
reactant | 3-amino-2-chloropyridine | NC=1C(=NC=CC1)Cl | C5H5ClN2
product | [2-[(3-Amino-2-pyridinyl)amino]phenyl](2-pyridinyl)methanone | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=NC=CC=C1 | C17H14N4O
